US04983723
To 30 ml of an anhydrous THF suspension containing 808 mg of lithium aluminum hydride was slowly added 35 ml of an anhydrous THF solution containing 2.0 g of 2-acetoxy-4-(4-acetoxy-1,2-epoxy-2,5,5-trimethylcyclopentyl)but-3-yn under ice-cooling in a nitrogen atmosphere over 10 minutes. After the addition, the mixture was placed under refluxing conditions and stirred for 8 hours. After completion of the reaction, the reaction mixture was cooled, and 0.8 ml of water, 0.8 ml of a 15% sodium hydroxide aqueous solution, and 2.4 ml of water were carefully added thereto in this order, followed by vigorously stirring for 20 minutes. Any insoluble matter was removed by filtration with suction, and the filtrate was concentrated under reduced pressure. The resulting solid was purified by silica gel column chromatography to obtain 902 mg (yield: 60%) of 4-(2,4-dihydroxy-2,5,5-trimethylcyclopentylidene)but-3-en-2-ol.

reactant | THF | 30 ml | C1CCOC1 | C4H8O
reactant | lithium aluminum hydride | 808 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | THF | 35 ml | C1CCOC1 | C4H8O
reactant | 2-acetoxy-4-(4-acetoxy-1,2-epoxy-2,5,5-trimethylcyclopentyl)but-3-yn | 2.0 g | C(C)(=O)OC(C)C#CC12C(CC(C1(C)C)OC(C)=O)(C)O2 | C16H22O5
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 2.4 ml | O | H2O
solvent | water | 0.8 ml | O | H2O
product | 4-(2,4-dihydroxy-2,5,5-trimethylcyclopentylidene)but-3-en-2-ol | 902 mg, yield: 60% | OC1(C(C(C(C1)O)(C)C)=C=CC(C)O)C | C12H20O3
